US08236813B2
2-{4-Amino-2-[(3-chloro-4-methoxy-5-methylpyridin-2-yl)methyl]-2,7-dihydro-6-thia-1,2,3,5-tetraazabenzo[cd]azulen-8-yl}-N-methylacetamide monohydrobromide
A 20% hydrobromic acid-ethanol solution (204 μl, 0.505 mmol) was added to an acetonitrile solution (350 ml) of 2-{4-amino-2-[(3-chloro-4-methoxy-5-methylpyridin-2-yl)methyl]-2,7-dihydro-6-thia-1,2,3,5-tetraazabenzo[cd]azulen-8-yl}-N-methylacetamide (250 mg, 0.561 mmol) at room temperature. The resulting mixture was stirred for 3 hours, and the precipitated solid was then collected by filtration. Ethanol (3 ml) was added to the resulting solid, and the resulting mixture was then stirred for 1 day. Thereafter, the solid was collected by filtration. The solid was then dried under reduced pressure at room temperature for 2 days, so as to obtain the title compound (128 mg, 0.243 mmol).

reactant | hydrobromic acid ethanol | 0.505 mmol, 204 μl | Br.C(C)O
reactant | 2-{4-amino-2-[(3-chloro-4-methoxy-5-methylpyridin-2-yl)methyl]-2,7-dihydro-6-thia-1,2,3,5-tetraazabenzo[cd]azulen-8-yl}-N-methylacetamide | 0.561 mmol, 250 mg | NC=1C=2C=3C(C=C(C3CSN1)CC(=O)NC)=NN(N2)CC2=NC=C(C(=C2Cl)OC)C | C19H20ClN7O2S
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
product | 2-{4-Amino-2-[(3-chloro-4-methoxy-5-methylpyridin-2-yl)methyl]-2,7-dihydro-6-thia-1,2,3,5-tetraazabenzo[cd]azulen-8-yl}-N-methylacetamide monohydrobromide | 0.243 mmol, 128 mg | Br.NC=1C=2C=3C(C=C(C3CSN1)CC(=O)NC)=NN(N2)CC2=NC=C(C(=C2Cl)OC)C | InChI=1S/C19H20ClN7O2S.BrH/c1-9-6-23-13(16(20)18(9)29-3)7-27-24-12-4-10(5-14(28)22-2)11-8-30-26-19(21)17(25-27)15(11)12;/h4,6H,5,7-8H2,1-3H3,(H2,21,26)(H,22,28);1H
